US05140026
1-[(3-Chloropropyl)sulfinyl]-4-nitrobenzene
A solution of m-chloroperoxybenzoic acid (80%, 16.6 g, 86.3 mmol) in methylene chloride (100 mL) was added dropwise to a solution of 1-[(3-chloropropyl)thio]-4-nitrobenzene (20.0 g, 86.3 mmol) in methylene chloride (200 mL) maintained at -78° C. (dry ice/acetone bath). After 2 h the reaction was allowed to warm to ambient temperature (~1 h) and 200 mL of 10% aqueous sodium hydroxide was added. The layers were allowed to separate and the aqueous layer was extracted (100 mL) with methylene chloride. The combined organic extracts were washed (water, 100 mL), dried (MgSO4) and concentrated in vacuo. A 1.0 g sample of the residue (21.2 g) was chromatographed (Chromatatron, SiO2, 4000μ, 99/1, methylene chloride:methanol) to give 0.89 g (88%) of white solid, mp 72.5°-74.5° C.

reactant | m-chloroperoxybenzoic acid | 86.3 mmol, 16.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-[(3-chloropropyl)thio]-4-nitrobenzene | 86.3 mmol, 20.0 g | ClCCCSC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO2S
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | sodium hydroxide | 200 mL | [OH-].[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-[(3-Chloropropyl)sulfinyl]-4-nitrobenzene | 0.89 g, 88% | ClCCCS(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO3S
